US08003796B2
Step D. Preparation of 1-(2-fluoro-4-(methylsulfonyl)phenyl)-4-hydroxypyridin-2(1H)-one
To a 1 liter recovery flask added 10% palladium on carbon (1.75 g, 16.44 mmol), applied vacuum for 5 minutes then vented to nitrogen. Added 20 mL each of CH2Cl2/MeOH/THF to wet solid, then added a suspension of 4-(benzyloxy)-1-(2-fluoro-4-(methylsulfonyl)phenyl)pyridin-2(1H)-one (5.38 g, 14.41 mmol) in ˜80 mL each of CH2Cl2/MeOH/THF (total of 100 mL each solvent), all while keeping a nitrogen flow over mixture. Applied vacuum briefly then placed under an atmosphere of hydrogen for 105 minutes, filtered through a 60×60 mm pad of CELITE® 545 filter aid using an additional 200 mL each of MeOH and CH2Cl2, and concentrated the filtrate to give 4.4 g of crude product as an off-white powder. MS (ESI) 284.3 (M+1).

reactant | 4-(benzyloxy)-1-(2-fluoro-4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 14.41 mmol, 5.38 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C19H16FNO4S
catalyst | palladium on carbon | 16.44 mmol, 1.75 g | [Pd] | Pd
solvent | CH2Cl2 MeOH THF | ˜80 mL | C(Cl)Cl.CO.C1CCOC1
solvent | CH2Cl2 MeOH THF | 20 mL | C(Cl)Cl.CO.C1CCOC1
product | 1-(2-fluoro-4-(methylsulfonyl)phenyl)-4-hydroxypyridin-2(1H)-one | 4.4 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N1C(C=C(C=C1)O)=O | C12H10FNO4S
